US06806230B1
10.6 g (39 mmol) of 5-(1-methylsulfonyloxy-2-methylpropyl)-4-isopropylpyrimidine was dissolved in 50 ml of isopropyl alcohol, and 10 ml (129 mmol) of a 40% methylamine aqueous solution was added, followed by stirring at room temperature for 8 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, and 100 ml of water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent=ethyl acetate) to obtain 2.9 g (yield: 36%) of 5-[1-(N-methylamino)-2-methylpropyl]-4-isopropylpyrimidine as slightly yellow crystals (melting point: 37-39° C.).

reactant | 5-(1-methylsulfonyloxy-2-methylpropyl)-4-isopropylpyrimidine | 39 mmol, 10.6 g | CS(=O)(=O)OC(C(C)C)C=1C(=NC=NC1)C(C)C | C12H20N2O3S
reactant | methylamine | CN | CH5N
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | 5-[1-(N-methylamino)-2-methylpropyl]-4-isopropylpyrimidine | 2.9 g, yield: 36% | CNC(C(C)C)C=1C(=NC=NC1)C(C)C | C12H21N3
